US04701459
2-(2-Nitro-5-piperazinylphenyl)-1,3-dioxolane (6.63 g, 24 mmol) was added portionwise over 1 hour to a stirred solution of 3,4-dimethoxybenzoyl chloride (4.76 g, 24 mmol) and pyridine (4.04 g, 48 mmol) in dry dichloromethane (200 mL). The mixture was stirred overnight at room temperature, washed twice with water and concentrated in vacuo to provide 2-[2-nitro-5-[4-(3,4-dimethoxybenzoyl)piperazinyl]phenyl]-1,3-dioxolane used without further purification below.

reactant | 2-(2-Nitro-5-piperazinylphenyl)-1,3-dioxolane | 24 mmol, 6.63 g | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCNCC1)C1OCCO1 | C13H17N3O4
reactant | 3,4-dimethoxybenzoyl chloride | 24 mmol, 4.76 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | pyridine | 48 mmol, 4.04 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-[2-nitro-5-[4-(3,4-dimethoxybenzoyl)piperazinyl]phenyl]-1,3-dioxolane | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCN(CC1)C(C1=CC(=C(C=C1)OC)OC)=O)C1OCCO1 | C22H25N3O7
